US07635711B2
Synthesis of 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(6-methyl-3,4-dihydro-2H-quinolin-1-ylmethyl)ethyl]benzenesulfonamide
A mixture of 46 mg (0.31 mmol) of 6-methyl-1,2,3,4-tetrahydroquinoline and 91.5 mg (0.31 mmol) of 2-trifluoromethyl-1-(2,4,6-trimethylbenzenesulfonyl)aziridine in 1.5 mL of anhydrous THF was heated at 130° C. in a sealed tube for 18 hours. The mixture was concentrated and the residue was purified by silica gel chromatography eluting with ethyl acetate-hexanes (gradient) to afford 65 mg (47%), m.p. 143° C.-144° C.

reactant | 6-methyl-1,2,3,4-tetrahydroquinoline | 0.31 mmol, 46 mg | CC=1C=C2CCCNC2=CC1 | C10H13N
reactant | 2-trifluoromethyl-1-(2,4,6-trimethylbenzenesulfonyl)aziridine | 0.31 mmol, 91.5 mg | FC(C1N(C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)(F)F | C12H14F3NO2S
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(6-methyl-3,4-dihydro-2H-quinolin-1-ylmethyl)ethyl]benzenesulfonamide | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC(C(F)(F)F)CN1CCCC2=CC(=CC=C12)C | C22H27F3N2O2S
